US04792561
A suspension of 1.0 g of 6-[3-(imidazol-1-yl)propyl]-3,4-dihydrocarbostyril hydrochloride in 100 ml of methylene chloride is stirred with a twofold stoichiometric excess of dilute aqueous sodium hydroxide solution until the salt is completely dissolved. The organic layer is separated, washed with water, dried over magnesium sulfate and evaporated to yield 6-[3-(imidazol-1-yl)propyl]-3,4-dihydrocarbostyril as the free base.

reactant | 6-[3-(imidazol-1-yl)propyl]-3,4-dihydrocarbostyril hydrochloride | 1.0 g | Cl.N1(C=NC=C1)CCCC=1C=C2CCC(NC2=CC1)=O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 6-[3-(imidazol-1-yl)propyl]-3,4-dihydrocarbostyril | N1(C=NC=C1)CCCC=1C=C2CCC(NC2=CC1)=O | C15H17N3O
